US04540793
About 2 g of 4-(1,2-dichloroethyl)pyridine hydrochloride were refluxed in absolute ethanol overnight. Excess ethanol was then evaporated, and the remaining traces were removed on a vacuum pump. The process resulted in the production of 2.5 g of 4-(1-chloro-2-ethoxyethyl)pyridine hydrochloride.

reactant | 4-(1,2-dichloroethyl)pyridine hydrochloride | 2 g | Cl.ClC(CCl)C1=CC=NC=C1
reactant | ethanol | C(C)O | C2H6O
product | 4-(1-chloro-2-ethoxyethyl)pyridine hydrochloride | 2.5 g | Cl.ClC(COCC)C1=CC=NC=C1 | InChI=1S/C9H12ClNO.ClH/c1-2-12-7-9(10)8-3-5-11-6-4-8;/h3-6,9H,2,7H2,1H3;1H
